US07795283B2
ii) Methyl [1-(5-aminopyridin-2-yl)piperidine-4-yl]acetate
A solution of methyl [1-(5-nitropyridin-2-yl)piperidin-4-yl]acetate (710 mg, 2.60 mmol) in EtOH (26 mL) was treated with 10% Pd on charcoal (71 mg), and stirred vigorously under an atmosphere of hydrogen for 4 h. The reaction mixture was filtered through diatomaceous earth and the filtrate was evaporated to dryness to give the title compound (556 mg, 70%) as an oil; 1H NMR δ 1.12-1.27 (2H, m), 1.67 (2H, d), 1.75-1.89 (1H, m), 2.25 (2H, d), 2.56 (2H, t), 3.33 (2H, s), 3.58 (3H, s), 4.52 (2H, s), 6.61 (1H, d), 6.86-6.93 (1H, m), 7.58 (1H, d); MS m/e MH+ 250.

reactant | methyl [1-(5-nitropyridin-2-yl)piperidin-4-yl]acetate | 2.60 mmol, 710 mg | [N+](=O)([O-])C=1C=CC(=NC1)N1CCC(CC1)CC(=O)OC | C13H17N3O4
solvent | EtOH | 26 mL | CCO | C2H6O
catalyst | Pd on charcoal | 71 mg | [Pd] | Pd
product | Methyl [1-(5-aminopyridin-2-yl)piperidine-4-yl]acetate | 556 mg, 70% | NC=1C=CC(=NC1)N1CCC(CC1)CC(=O)OC | C13H19N3O2
